US06787560B2
After 4-(2-bromo-5-methoxybenzyl)piperidine hydrochloride (16.00 g, 50.22 mmol) was suspended in a 1N aqueous sodium hydroxide solution (100 ml), the organic substance liberated was extracted with diethyl ether, and the organic layer was dried over anhydrous potassium carbonate and distilled under reduced pressure to remove the solvent. While cooling a solution of the thus obtained free amine in dichloromethane (100 ml) at 0° C., a 1.0M solution (100 ml) of boron tribromide in dichloromethane was added dropwise thereto over a period of 5 hours and the resulting mixture was stirred at room temperature for 3.5 hours. The reaction was terminated by adding methanol (500 ml), and the reaction mixture was stirred for 10 minutes and then distilled under reduced pressure to remove the solvent. The residue was dissolved in a 4N aqueous sodium hydroxide solution (200 ml) and washed with diethyl ether, and then acetic acid was added dropwise thereto until the aqueous layer became neutral. The gummous substance produced was extracted with ethyl acetate and the organic layer was dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent, whereby 4-(2-bromo-5-hydroxybenzyl)piperidine (9.93 g, 37.03 mmol) was obtained in a yield of 74%.

reactant | 4-(2-bromo-5-methoxybenzyl)piperidine hydrochloride | 50.22 mmol, 16.00 g | Cl.BrC1=C(CC2CCNCC2)C=C(C=C1)OC
solvent | sodium hydroxide | 1N, 100 ml | [OH-].[Na+]
product | 4-(2-bromo-5-hydroxybenzyl)piperidine | 37.03 mmol, 9.93 g, yield of 74% | BrC1=C(CC2CCNCC2)C=C(C=C1)O | C12H16BrNO
